US08022222B2
(6-(4-Methylthiazol-2-ylamino)-4-phenoxypyridin-3-yl)methanol
To a solution of 1M lithium aluminum hydride (70 mL, 70 mmol) in ether at 0° C. was added a solution of ethyl 6-(4-methylthiazol-2-ylamino)-4-phenoxynicotinate (14 mmol) in THF (50 mL). The reaction mixture was stirred for 1.5 hours, then slowly quenched with sodium sulfate decahydrate and stirred for 1 hour. The reaction mixture was filtered, the solids were washed with THF and the organic layer was concentrated. Water and ethyl acetate were added to the residue, and the aqueous layer was extracted with ethyl acetate. The organic layer was washed with brine, dried, concentrated to 50 mL of ethyl acetate, and filtered. The residue was purified using silica gel column chromatography with 30% ethyl acetate in hexanes as eluent to afford the desired product (3.0 g, 66% yield) as light yellow solid. 1H NMR (DMSO) δ 10.83 (s, 1H), 8.20 (s, 1H), 7.50 (m, 2H), 7.30 (m, 1H), 7.17 (m, 2H), 6.49 (d, 1H), 6.35 (s, 1H), 5.07 (t, 1H), 4.55 (d, 2H), 2.17 (d, 3H); Mass spectrum (esi) m/z=314 (100)(M+H).

reactant | lithium aluminum hydride | 70 mmol, 1M, 70 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 6-(4-methylthiazol-2-ylamino)-4-phenoxynicotinate | 14 mmol | CC=1N=C(SC1)NC1=NC=C(C(=O)OCC)C(=C1)OC1=CC=CC=C1 | C18H17N3O3S
solvent | ether | CCOCC | C4H10O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (6-(4-Methylthiazol-2-ylamino)-4-phenoxypyridin-3-yl)methanol | 3.0 g, 66% yield | CC=1N=C(SC1)NC1=CC(=C(C=N1)CO)OC1=CC=CC=C1 | C16H15N3O2S
